US08110585B2
ethyl (2E)-3-[2-(trifluoromethyl)imidazo[1,2-a]pyridin-5-yl]acrylate
To a solution of 5-bromo-2-(trifluoromethyl)imidazo[1,2-a]pyridine (10.0 g, 37.7 mmol) in N,N-dimethylacetamide (60 mL) were added sodium acetate trihydrate (6.19 g, 75.0 mmol), ethyl acrylate (4.94 mL, 45.3 mmol) and [1,1′bis(diphenylphosphino)ferrocene]dichloropalladium(II)-dichloromethane complex (2.76 g, 3.77 mmol) at room temperature, and the mixture was stirred under nitrogen stream at 110° C. for 24 hr. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate, washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=20/80) to give the title compound (6.74 g, yield 63%).

reactant | 5-bromo-2-(trifluoromethyl)imidazo[1,2-a]pyridine | 37.7 mmol, 10.0 g | BrC1=CC=CC=2N1C=C(N2)C(F)(F)F | C8H4BrF3N2
reactant | sodium acetate trihydrate | 75.0 mmol, 6.19 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | ethyl acrylate | 45.3 mmol, 4.94 mL | C(C=C)(=O)OCC | C5H8O2
reactant | Water | O | H2O
solvent | N,N-dimethylacetamide | 60 mL | CN(C(C)=O)C | C4H9NO
product | ethyl (2E)-3-[2-(trifluoromethyl)imidazo[1,2-a]pyridin-5-yl]acrylate | 6.74 g, yield 63% | FC(C=1N=C2N(C(=CC=C2)/C=C/C(=O)OCC)C1)(F)F | C13H11F3N2O2
